US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-[(4-oxopiperidin-1-yl)carbonylamino]pyridine
2-Amino-4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine (100 mg) was dissolved in tetrahydrofuran (2.5 ml) under a nitrogen atmosphere, and then N-methylmorpholine (0.080 ml) and phenyl chloroformate (0.080 ml) were added dropwise thereto while cooling in an ice bath, followed by raising the temperature up to room temperature and stirring for 20 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then dissolved in N,N-dimethylformamide (2.5 ml), and then N-methylmorpholine (0.2 ml) and 4-oxopiperidine hydrochloride monohydrate (272 mg) were added thereto at room temperature, followed by stirring for 23 hrs. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was dried in vacuum to provide the titled compound (83.1 mg, 63%) as white powder.

reactant | 2-Amino-4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine | 100 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)F | C20H17FN4O2S
reactant | N-methylmorpholine | 0.080 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl chloroformate | 0.080 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N-methylmorpholine | 0.2 ml | CN1CCOCC1 | C5H11NO
reactant | 4-oxopiperidine hydrochloride monohydrate | 272 mg | O.Cl.O=C1CCNCC1
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-[(4-oxopiperidin-1-yl)carbonylamino]pyridine | 83.1 mg, 63% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)=O)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C26H24FN5O4S
